******************************************************************
*
* 		TDK Electronics
* 		PPD Business Group
* 		A-8530 Deutschlandsberg
* 		Siemensstraﬂe 43
*
*		Andreas Lesch
*       	PPD CMRD INT
*		Tel  +43 (0) 676 8226 4991
*		Email andreas.lesch@tdk.com
*
*
******************************************************************
* Please read the hints in "Readme.txt".
******************************************************************
*
*
******************************************************************
************************ preliminary *****************************
******************************************************************
*
* Library TVS.sub
* Version 1.2 ( 02. February 2023)
*
*
*
******************************************************************
* Library for Linear Technologies LTspice
*
******************************************************************
*
*
*
.model idealD D(Is=1e-14 N=0.1 Rs=0.001 )
*
.model snapback1SW SW(Ron=0.001 Roff=1e6 Von=11.6 Voff=11.4)
.model Before_snapback D(Is=5e-17 N=9.1 Rs=17 )
.model mainIV D(Is=5.6e-16 N=1.82 Rs=0.43 )
.model sbcmSW SW(Ron=0.001 Roff=180 Von=11.8 Voff=0)
.model cmSW SW(Ron=0.001 Roff=11 Von=10.95 Voff=0)
.model mainIV2 D(Is=4.49e-15 N=3.62 Rs=0.27 )
*
.model snapback1SW_ULC101 SW(Ron=0.001 Roff=1e6 Von=11.6 Voff=11.4)
.model Before_snapback_ULC101 D(Is=5e-17 N=9.1 Rs=17 )
.model mainIV_ULC101 D(Is=5.6e-16 N=1.82 Rs=0.43 )
.model sbcmSW_ULC101 SW(Ron=0.001 Roff=180 Von=11.8 Voff=0)
.model cmSW_ULC101 SW(Ron=0.001 Roff=11 Von=10.95 Voff=0)
.model mainIV2_ULC101 D(Is=4.49e-15 N=3.62 Rs=0.27 )
*
.model snapback1SW_ULC102 SW(Ron=0.001 Roff=1e6 Von=4.8 Voff=4.6)
.model Before_snapback_ULC102 D(Is=1.5e-20 N=9.1 Rs=72)
.model mainIV_ULC102 D(Is=2.6e-16 N=1.82 Rs=0.43)
.model sbcmSW_ULC102 SW(Ron=0.001 Roff=318 Von=11.8 Voff=0)
.model cmSW_ULC102 SW(Ron=0.001 Roff=11 Von=10.95 Voff=0)
.model mainIV2_ULC102 D(Is=4.49e-15 N=3.62 Rs=0.27)
*
.model snapback1SW_ULC103 SW(Ron=0.001 Roff=1e6 Von=4.9 Voff=4.7)
.model Before_snapback_ULC103 D(Is=1.5e-20 N=5.9 Rs=70 )
.model mainIV_ULC103 D(Is=2.6e-16 N=1.8 Rs=0.73 )
.model sbcmSW_ULC103 SW(Ron=0.001 Roff=350 Von=10.8 Voff=0)
.model cmSW_ULC103 SW(Ron=0.001 Roff=11 Von=11.95 Voff=0)
.model mainIV2_ULC103 D(Is=4.49e-15 N=3.82 Rs=0.46 )
*
.model snapback1SW_GP101 SW(Ron=0.001 Roff=1e6 Von=4 Voff=3.9)
.model Before_snapback_GP101 D(Is=5e-16 N=9.1 Rs=1000 )
.model mainIV_GP101 D(Is=2.6e-16 N=6.5 Rs=0.09 )
.model cmSW_GP101 SW(Ron=0.001 Roff=11 Von=3.5 Voff=0)
*
.model snapback1SW_GP103 SW(Ron=0.001 Roff=1e6 Von=4 Voff=3.9)
.model Before_snapback_GP103 D(Is=1e-16 N=10 Rs=3200 )
.model mainIV_GP103 D(Is=1e-16 N=21.2 Rs=0.29 )
.model cmSW_GP103 SW(Ron=0.001 Roff=11 Von=3.5 Voff=0)
*
.model mainIV_GP104 D(Is=6e-17 N=23.7 Rs=0.42 )
.model cmSW_GP104 SW(Ron=0.001 Roff=1.2 Von=5.3 Voff=0)
.model FESW_GP104 SW(Ron=0.001 Roff=50 Von=11.3 Voff=0)
*
*
*
*
.SUBCKT SD0201SL_ULC101 A1 A2 PARAMS: L1v=0.32n C1v=0.65p R1v=25 C4v=700p
L1 A1 N005 {L1v}
C1 N005 N007 {C1v}
R1 N007 A2 {R1v}
R2 N005 A2 1e7
D1 N005 Positive idealD
E1 N011 A2 Positive A2 1
V1 Snap_A Snap_B 7.8
D3 A2 Snap_B idealD
C2 snap_c A2 155p
R3 snap_c A2 1e6
D4 N009 N013 idealD
V2 N013 N017 100
R4 N017 A2 50
D5 N015 N009 idealD
R5 N015 A2 50
R6 Snap_C_LP snap_c 11
C3 Snap_C_LP A2 24p
S1 V3 Positive Snap_C_LP A2 snapback1SW_ULC101
F1 A2 N009 V3 -1
R7 A2 N009 1e100
R8 A2 Positive 1e100
R9 Snap_A N011 1K
D6 N025 A2 mainIV_ULC101
R10 A2 Snap_B 1e100
R11 A2 snap_c 1e100
V3 B V3 0
R12 N009 snap_c 1000
D12 Positive A2 Before_snapback_ULC101
G2 A2 snap_c A2 Snap_B -1
F2 A2 N028 V5 +1
R14 N028 A2 1e100
V5 B N022 0
S2 N023 N022 SBCM_C A2 sbcmSW_ULC101
V6 SBCM_C N028 2.65
C4 N028 A2 {C4v}
D7 N028 N034 idealD
D8 N031 N028 idealD
R15 N038 A2 50
R16 N031 A2 50
F3 A2 N029 V8 +1
R17 N029 A2 1e100
V8 N023 N024 0
S3 N025 N024 CM_C A2 cmSW_ULC101
V9 CM_C N029 3.1
C5 N029 A2 30000p
D9 N029 N035 idealD
D10 P001 N029 idealD
R18 N039 A2 50
R19 P001 A2 50
D11 N025 A2 mainIV2_ULC101
V7 N034 N038 100
V10 N035 N039 100
R20 N028 A2 1e6
R21 N029 A2 1e6
D2 Negative N005 idealD
D13 A2 Negative Before_snapback_ULC101
E3 N010 A2 Negative A2 -1
V11 Snap_A_N Snap_B_N 7.8
D14 A2 Snap_B_N idealD
C7 snap_c_N A2 155p
R25 snap_c_N A2 1e6
D15 N008 N012 idealD
V12 N012 N016 100
R26 N016 A2 50
D16 N014 N008 idealD
R27 N014 A2 50
R28 Snap_C_LP_N snap_c_N 11
C8 Snap_C_LP_N A2 24p
S4 V3_N Negative Snap_C_LP_N A2 snapback1SW_ULC101
F4 A2 N008 V13 +1
R29 A2 N008 1e100
R30 A2 Negative 1e100
R31 Snap_A_N N010 1K
D17 A2 N021 mainIV_ULC101
R32 A2 Snap_B_N 1e100
R33 A2 snap_c_N 1e100
V13 B_N V3_N 0
R34 N008 snap_c_N 1000
G1 A2 snap_c_N A2 Snap_B_N -1
F5 A2 N026 V14 -1
R35 N026 A2 1e100
V14 B_N N018 0
S5 N019 N018 SBCM_C_N A2 sbcmSW_ULC101
V15 SBCM_C_N N026 2.65
C9 N026 A2 700p
D18 N026 N032 idealD
D19 N030 N026 idealD
R36 N036 A2 50
R37 N030 A2 50
F6 A2 N027 V16 -1
R38 N027 A2 1e100
V16 N019 N020 0
S6 N021 N020 CM_C_N A2 cmSW_ULC101
V17 CM_C_N N027 3.1
C10 N027 A2 30000p
D20 N027 N033 idealD
D21 P002 N027 idealD
R39 N037 A2 50
R40 P002 A2 50
D22 A2 N021 mainIV2_ULC101
V18 N032 N036 100
V19 N033 N037 100
R41 N026 A2 1e6
R42 N027 A2 1e6
.ic v(snap_c_N)=0
.ic v(snap_c)=0
.ENDS
*
*
*
*
.SUBCKT SD01005SL_ULC101 A1 A2 PARAMS: L1v=0.33n C1v=0.48p R1v=20.1 C4v=650p
L1 A1 N005 {L1v}
C1 N005 N007 {C1v}
R1 N007 A2 {R1v}
R2 N005 A2 1e7
D1 N005 Positive idealD
E1 N011 A2 Positive A2 1
V1 Snap_A Snap_B 7.8
D3 A2 Snap_B idealD
C2 snap_c A2 155p
R3 snap_c A2 1e6
D4 N009 N013 idealD
V2 N013 N017 100
R4 N017 A2 50
D5 N015 N009 idealD
R5 N015 A2 50
R6 Snap_C_LP snap_c 11
C3 Snap_C_LP A2 24p
S1 V3 Positive Snap_C_LP A2 snapback1SW_ULC101
F1 A2 N009 V3 -1
R7 A2 N009 1e100
R8 A2 Positive 1e100
R9 Snap_A N011 1K
D6 N025 A2 mainIV_ULC101
R10 A2 Snap_B 1e100
R11 A2 snap_c 1e100
V3 B V3 0
R12 N009 snap_c 1000
D12 Positive A2 Before_snapback_ULC101
G2 A2 snap_c A2 Snap_B -1
F2 A2 N028 V5 +1
R14 N028 A2 1e100
V5 B N022 0
S2 N023 N022 SBCM_C A2 sbcmSW_ULC101
V6 SBCM_C N028 2.65
C4 N028 A2 {C4v}
D7 N028 N034 idealD
D8 N031 N028 idealD
R15 N038 A2 50
R16 N031 A2 50
F3 A2 N029 V8 +1
R17 N029 A2 1e100
V8 N023 N024 0
S3 N025 N024 CM_C A2 cmSW_ULC101
V9 CM_C N029 3.1
C5 N029 A2 30000p
D9 N029 N035 idealD
D10 P001 N029 idealD
R18 N039 A2 50
R19 P001 A2 50
D11 N025 A2 mainIV2_ULC101
V7 N034 N038 100
V10 N035 N039 100
R20 N028 A2 1e6
R21 N029 A2 1e6
D2 Negative N005 idealD
D13 A2 Negative Before_snapback_ULC101
E3 N010 A2 Negative A2 -1
V11 Snap_A_N Snap_B_N 7.8
D14 A2 Snap_B_N idealD
C7 snap_c_N A2 155p
R25 snap_c_N A2 1e6
D15 N008 N012 idealD
V12 N012 N016 100
R26 N016 A2 50
D16 N014 N008 idealD
R27 N014 A2 50
R28 Snap_C_LP_N snap_c_N 11
C8 Snap_C_LP_N A2 24p
S4 V3_N Negative Snap_C_LP_N A2 snapback1SW_ULC101
F4 A2 N008 V13 +1
R29 A2 N008 1e100
R30 A2 Negative 1e100
R31 Snap_A_N N010 1K
D17 A2 N021 mainIV_ULC101
R32 A2 Snap_B_N 1e100
R33 A2 snap_c_N 1e100
V13 B_N V3_N 0
R34 N008 snap_c_N 1000
G1 A2 snap_c_N A2 Snap_B_N -1
F5 A2 N026 V14 -1
R35 N026 A2 1e100
V14 B_N N018 0
S5 N019 N018 SBCM_C_N A2 sbcmSW_ULC101
V15 SBCM_C_N N026 2.65
C9 N026 A2 700p
D18 N026 N032 idealD
D19 N030 N026 idealD
R36 N036 A2 50
R37 N030 A2 50
F6 A2 N027 V16 -1
R38 N027 A2 1e100
V16 N019 N020 0
S6 N021 N020 CM_C_N A2 cmSW_ULC101
V17 CM_C_N N027 3.1
C10 N027 A2 30000p
D20 N027 N033 idealD
D21 P002 N027 idealD
R39 N037 A2 50
R40 P002 A2 50
D22 A2 N021 mainIV2_ULC101
V18 N032 N036 100
V19 N033 N037 100
R41 N026 A2 1e6
R42 N027 A2 1e6
.ic v(snap_c_N)=0
.ic v(snap_c)=0
.ENDS
*
*
*
*
.SUBCKT SD0201SL_ULC102 A1 A2 PARAMS: L1v=0.38n C1v=0.55p R1v=24.2
L1 A1 N005 {L1v}
C1 N005 N007 {C1v}
R1 N007 A2 {R1v}
R2 N005 A2 1e7
D1 N005 Positive idealD
E1 N010 A2 Positive A2 1
V1 Snap_A Snap_B 10.9
D3 A2 Snap_B idealD
C2 snap_c A2 55p
R3 snap_c A2 1e6
D4 Test N012 idealD
V2 N012 N016 100
R4 N016 A2 50
D5 N014 Test idealD
R5 N014 A2 50
R6 Snap_C_LP snap_c 11
C3 Snap_C_LP A2 10p
S1 V3 Positive Snap_C_LP A2 snapback1SW_ULC102
F1 A2 Test V3 -1.2
R7 A2 Test 1e100
R8 A2 Positive 1e100
R9 Snap_A N010 1K
D6 N024 A2 mainIV_ULC102
R10 A2 Snap_B 1e100
R11 A2 snap_c 1e100
V3 B V3 0
R12 Test snap_c 1000
D12 Positive A2 Before_snapback_ULC102
G2 A2 snap_c A2 Snap_B -1
F2 A2 N027 V5 +1
R14 N027 A2 1e100
V5 B N021 0
S2 N022 N021 SBCM_C A2 sbcmSW_ULC102
V6 SBCM_C N027 2.6
C4 N027 A2 700p
D7 N027 N033 idealD
D8 N030 N027 idealD
R15 N037 A2 50
R16 N030 A2 50
F3 A2 N028 V8 +1
R17 N028 A2 1e100
V8 N022 N023 0
S3 N024 N023 CM_C A2 cmSW_ULC102
V9 CM_C N028 3.1
C5 N028 A2 30n
D9 N028 N034 idealD
D10 P001 N028 idealD
R18 N038 A2 50
R19 P001 A2 50
D11 N024 A2 mainIV2_ULC102
V7 N033 N037 100
V10 N034 N038 100
R20 N027 A2 1e6
R21 N028 A2 1e6
D2 Negative N005 idealD
D13 A2 Negative Before_snapback_ULC102
E3 N009 A2 Negative A2 -1
V11 Snap_A_N Snap_B_N 10.9
D14 A2 Snap_B_N idealD
C7 snap_c_N A2 55p
R25 snap_c_N A2 1e6
D15 N008 N011 idealD
V12 N011 N015 100
R26 N015 A2 50
D16 N013 N008 idealD
R27 N013 A2 50
R28 Snap_C_LP_N snap_c_N 11
C8 Snap_C_LP_N A2 10p
S4 V3_N Negative Snap_C_LP_N A2 snapback1SW_ULC102
F4 A2 N008 V13 +1.2
R29 A2 N008 1e100
R30 A2 Negative 1e100
R31 Snap_A_N N009 1K
D17 A2 N020 mainIV_ULC102
R32 A2 Snap_B_N 1e100
R33 A2 snap_c_N 1e100
V13 B_N V3_N 0
R34 N008 snap_c_N 1000
G1 A2 snap_c_N A2 Snap_B_N -1
F5 A2 N025 V14 -1
R35 N025 A2 1e100
V14 B_N N017 0
S5 N018 N017 SBCM_C_N A2 sbcmSW_ULC102
V15 SBCM_C_N N025 2.65
C9 N025 A2 700p
D18 N025 N031 idealD
D19 N029 N025 idealD
R36 N035 A2 50
R37 N029 A2 50
F6 A2 N026 V16 -1
R38 N026 A2 1e100
V16 N018 N019 0
S6 N020 N019 CM_C_N A2 cmSW_ULC102
V17 CM_C_N N026 3.1
C10 N026 A2 30n
D20 N026 N032 idealD
D21 P002 N026 idealD
R39 N036 A2 50
R40 P002 A2 50
D22 A2 N020 mainIV2_ULC102
V18 N031 N035 100
V19 N032 N036 100
R41 N025 A2 1e6
R42 N026 A2 1e6
.ic v(snap_c_N)=0
.ic v(snap_c)=0
.ENDS
*
*
*
*
.SUBCKT SD01005SL_ULC102 A1 A2 PARAMS: L1v=0.4n C1v=0.45p R1v=22.3
L1 A1 N005 {L1v}
C1 N005 N007 {C1v}
R1 N007 A2 {R1v}
R2 N005 A2 1e7
D1 N005 Positive idealD
E1 N010 A2 Positive A2 1
V1 Snap_A Snap_B 10.9
D3 A2 Snap_B idealD
C2 snap_c A2 55p
R3 snap_c A2 1e6
D4 Test N012 idealD
V2 N012 N016 100
R4 N016 A2 50
D5 N014 Test idealD
R5 N014 A2 50
R6 Snap_C_LP snap_c 11
C3 Snap_C_LP A2 10p
S1 V3 Positive Snap_C_LP A2 snapback1SW_ULC102
F1 A2 Test V3 -1.2
R7 A2 Test 1e100
R8 A2 Positive 1e100
R9 Snap_A N010 1K
D6 N024 A2 mainIV_ULC102
R10 A2 Snap_B 1e100
R11 A2 snap_c 1e100
V3 B V3 0
R12 Test snap_c 1000
D12 Positive A2 Before_snapback_ULC102
G2 A2 snap_c A2 Snap_B -1
F2 A2 N027 V5 +1
R14 N027 A2 1e100
V5 B N021 0
S2 N022 N021 SBCM_C A2 sbcmSW_ULC102
V6 SBCM_C N027 2.6
C4 N027 A2 700p
D7 N027 N033 idealD
D8 N030 N027 idealD
R15 N037 A2 50
R16 N030 A2 50
F3 A2 N028 V8 +1
R17 N028 A2 1e100
V8 N022 N023 0
S3 N024 N023 CM_C A2 cmSW_ULC102
V9 CM_C N028 3.1
C5 N028 A2 30n
D9 N028 N034 idealD
D10 P001 N028 idealD
R18 N038 A2 50
R19 P001 A2 50
D11 N024 A2 mainIV2_ULC102
V7 N033 N037 100
V10 N034 N038 100
R20 N027 A2 1e6
R21 N028 A2 1e6
D2 Negative N005 idealD
D13 A2 Negative Before_snapback_ULC102
E3 N009 A2 Negative A2 -1
V11 Snap_A_N Snap_B_N 10.9
D14 A2 Snap_B_N idealD
C7 snap_c_N A2 55p
R25 snap_c_N A2 1e6
D15 N008 N011 idealD
V12 N011 N015 100
R26 N015 A2 50
D16 N013 N008 idealD
R27 N013 A2 50
R28 Snap_C_LP_N snap_c_N 11
C8 Snap_C_LP_N A2 10p
S4 V3_N Negative Snap_C_LP_N A2 snapback1SW_ULC102
F4 A2 N008 V13 +1.2
R29 A2 N008 1e100
R30 A2 Negative 1e100
R31 Snap_A_N N009 1K
D17 A2 N020 mainIV_ULC102
R32 A2 Snap_B_N 1e100
R33 A2 snap_c_N 1e100
V13 B_N V3_N 0
R34 N008 snap_c_N 1000
G1 A2 snap_c_N A2 Snap_B_N -1
F5 A2 N025 V14 -1
R35 N025 A2 1e100
V14 B_N N017 0
S5 N018 N017 SBCM_C_N A2 sbcmSW_ULC102
V15 SBCM_C_N N025 2.65
C9 N025 A2 700p
D18 N025 N031 idealD
D19 N029 N025 idealD
R36 N035 A2 50
R37 N029 A2 50
F6 A2 N026 V16 -1
R38 N026 A2 1e100
V16 N018 N019 0
S6 N020 N019 CM_C_N A2 cmSW_ULC102
V17 CM_C_N N026 3.1
C10 N026 A2 30n
D20 N026 N032 idealD
D21 P002 N026 idealD
R39 N036 A2 50
R40 P002 A2 50
D22 A2 N020 mainIV2_ULC102
V18 N031 N035 100
V19 N032 N036 100
R41 N025 A2 1e6
R42 N026 A2 1e6
.ic v(snap_c_N)=0
.ic v(snap_c)=0
.ENDS
*
*
*
*
.SUBCKT SD0201SL_ULC103 A1 A2 PARAMS: L1v=0.27n C1v=0.3p R1v=27
L1 A1 N005 {L1v}
C1 N005 N007 {C1v}
R1 N007 A2 {R1v}
R2 N005 A2 1e7
D1 N005 Positive idealD
E1 N010 A2 Positive A2 1
V1 Snap_A Snap_B 7.4
D3 A2 Snap_B idealD
C2 snap_c A2 70p
R3 snap_c A2 1e6
D4 Test N012 idealD
V2 N012 N016 100
R4 N016 A2 50
D5 N014 Test idealD
R5 N014 A2 50
R6 Snap_C_LP snap_c 20
C3 Snap_C_LP A2 1p
S1 V3 Positive Snap_C_LP A2 snapback1SW_ULC103
F1 A2 Test V3 -1
R7 A2 Test 1e100
R8 A2 Positive 1e100
R9 Snap_A N010 1K
D6 N024 A2 mainIV_ULC103
R10 A2 Snap_B 1e100
R11 A2 snap_c 1e100
V3 B V3 0
R12 Test snap_c 1000
D12 Positive A2 Before_snapback_ULC103
G2 A2 snap_c A2 Snap_B -1
F2 A2 N027 V5 +1
R14 N027 A2 1e100
V5 B N021 0
S2 N022 N021 SBCM_C A2 sbcmSW_ULC103
V6 SBCM_C N027 2.55
C4 N027 A2 1020p
D7 N027 N033 idealD
D8 N030 N027 idealD
R15 N037 A2 50
R16 N030 A2 50
F3 A2 N028 V8 +1
R17 N028 A2 1e100
V8 N022 N023 0
S3 N024 N023 CM_C A2 cmSW_ULC103
V9 CM_C N028 3
C5 N028 A2 18160p
D9 N028 N034 idealD
D10 P001 N028 idealD
R18 N038 A2 50
R19 P001 A2 50
D11 N024 A2 mainIV2_ULC103
V7 N033 N037 100
V10 N034 N038 100
R20 N027 A2 1e6
R21 N028 A2 1e6
D2 Negative N005 idealD
D13 A2 Negative Before_snapback_ULC103
E3 N009 A2 Negative A2 -1
V11 Snap_A_N Snap_B_N 10.9
D14 A2 Snap_B_N idealD
C7 snap_c_N A2 70p
R25 snap_c_N A2 1e6
D15 N008 N011 idealD
V12 N011 N015 100
R26 N015 A2 50
D16 N013 N008 idealD
R27 N013 A2 50
R28 Snap_C_LP_N snap_c_N 20
C8 Snap_C_LP_N A2 1p
S4 V3_N Negative Snap_C_LP_N A2 snapback1SW_ULC103
F4 A2 N008 V13 +1
R29 A2 N008 1e100
R30 A2 Negative 1e100
R31 Snap_A_N N009 1K
D17 A2 N020 mainIV_ULC103
R32 A2 Snap_B_N 1e100
R33 A2 snap_c_N 1e100
V13 B_N V3_N 0
R34 N008 snap_c_N 1000
G1 A2 snap_c_N A2 Snap_B_N -1
F5 A2 N025 V14 -1
R35 N025 A2 1e100
V14 B_N N017 0
S5 N018 N017 SBCM_C_N A2 sbcmSW_ULC103
V15 SBCM_C_N N025 2.55
C9 N025 A2 1020p
D18 N025 N031 idealD
D19 N029 N025 idealD
R36 N035 A2 50
R37 N029 A2 50
F6 A2 N026 V16 -1
R38 N026 A2 1e100
V16 N018 N019 0
S6 N020 N019 CM_C_N A2 cmSW_ULC103
V17 CM_C_N N026 3
C10 N026 A2 18160p
D20 N026 N032 idealD
D21 P002 N026 idealD
R39 N036 A2 50
R40 P002 A2 50
D22 A2 N020 mainIV2_ULC103
V18 N031 N035 100
V19 N032 N036 100
R41 N025 A2 1e6
R42 N026 A2 1e6
.ic v(snap_c_N)=0
.ic v(snap_c)=0
.ENDS
*
*
*
*
.SUBCKT SD0201SL_GP101 A1 A2 PARAMS: L1v=0.14n C1v=13p R1v=0.28
L1 A1 N005 0.14n
C1 N005 N007 13p
R1 N007 A2 0.28
R2 N005 A2 1e7
D1 N005 Positive idealD
E1 N009 A2 Positive A2 1
V1 Snap_A Snap_B 7
D3 A2 Snap_B idealD
C2 snap_c A2 1p
R3 snap_c A2 1e6
D4 Test N011 idealD
V2 N011 N015 100
R4 N015 A2 50
D5 N013 Test idealD
R5 N013 A2 50
R6 Snap_C_LP snap_c 4
C3 Snap_C_LP A2 1p
S1 V3 Positive Snap_C_LP A2 snapback1SW_GP101
F1 A2 Test V3 -0.9
R7 A2 Test 1e100
R8 A2 Positive 1e100
R9 Snap_A N009 1K
D6 N018 A2 mainIV_GP101
R10 A2 Snap_B 1e100
R11 A2 snap_c 1e100
V3 B V3 0
R12 Test snap_c 1000
D12 Positive A2 Before_snapback_GP101
G2 A2 snap_c A2 Snap_B -1
F3 A2 N021 V8 +1
R17 N021 A2 1e100
V8 B N017 0
S3 N018 N017 CM_C A2 cmSW_GP101
V9 CM_C N021 1.37
C5 N021 A2 30n
D9 N021 N023 idealD
D10 P001 N021 idealD
R18 N025 A2 50
R19 P001 A2 50
V10 N023 N025 100
R21 N021 A2 1e6
D2 Negative N005 idealD
D13 A2 Negative Before_snapback_GP101
E3 N010 A2 Negative A2 -1
V11 Snap_A_N Snap_B_N 7
D14 A2 Snap_B_N idealD
C7 snap_c_N A2 1p
R25 snap_c_N A2 1e6
D15 N008 N012 idealD
V12 N012 N016 100
R26 N016 A2 50
D16 N014 N008 idealD
R27 N014 A2 50
R28 Snap_C_LP_N snap_c_N 4
C8 Snap_C_LP_N A2 1p
S4 V3_N Negative Snap_C_LP_N A2 snapback1SW_GP101
F4 A2 N008 V13 +0.9
R29 A2 N008 1e100
R30 A2 Negative 1e100
R31 Snap_A_N N010 1K
D17 A2 N020 mainIV_GP101
R32 A2 Snap_B_N 1e100
R33 A2 snap_c_N 1e100
V13 B_N V3_N 0
R34 N008 snap_c_N 1000
G1 A2 snap_c_N A2 Snap_B_N -1
F6 A2 N022 V16 -1
R38 N022 A2 1e100
V16 B_N N019 0
S6 N020 N019 CM_C_N A2 cmSW_GP101
V17 CM_C_N N022 1.37
C10 N022 A2 30n
D20 N022 N024 idealD
D21 P002 N022 idealD
R39 N026 A2 50
R40 P002 A2 50
V19 N024 N026 100
R42 N022 A2 1e6
.ic v(snap_c_N)=0
.ic v(snap_c)=0
.ENDS
*
*
*
*
.SUBCKT SD01005SL_GP101 A1 A2 PARAMS: L1v=0.24n C1v=5p R1v=0.55
L1 A1 N005 {L1v}
C1 N005 N007 {C1v}
R1 N007 A2 {R1v}
R2 N005 A2 1e7
D1 N005 Positive idealD
E1 N009 A2 Positive A2 1
V1 Snap_A Snap_B 7
D3 A2 Snap_B idealD
C2 snap_c A2 1p
R3 snap_c A2 1e6
D4 Test N011 idealD
V2 N011 N015 100
R4 N015 A2 50
D5 N013 Test idealD
R5 N013 A2 50
R6 Snap_C_LP snap_c 4
C3 Snap_C_LP A2 1p
S1 V3 Positive Snap_C_LP A2 snapback1SW_GP101
F1 A2 Test V3 -0.9
R7 A2 Test 1e100
R8 A2 Positive 1e100
R9 Snap_A N009 1K
D6 N018 A2 mainIV_GP101
R10 A2 Snap_B 1e100
R11 A2 snap_c 1e100
V3 B V3 0
R12 Test snap_c 1000
D12 Positive A2 Before_snapback_GP101
G2 A2 snap_c A2 Snap_B -1
F3 A2 N021 V8 +1
R17 N021 A2 1e100
V8 B N017 0
S3 N018 N017 CM_C A2 cmSW_GP101
V9 CM_C N021 1.37
C5 N021 A2 30n
D9 N021 N023 idealD
D10 P001 N021 idealD
R18 N025 A2 50
R19 P001 A2 50
V10 N023 N025 100
R21 N021 A2 1e6
D2 Negative N005 idealD
D13 A2 Negative Before_snapback_GP101
E3 N010 A2 Negative A2 -1
V11 Snap_A_N Snap_B_N 7
D14 A2 Snap_B_N idealD
C7 snap_c_N A2 1p
R25 snap_c_N A2 1e6
D15 N008 N012 idealD
V12 N012 N016 100
R26 N016 A2 50
D16 N014 N008 idealD
R27 N014 A2 50
R28 Snap_C_LP_N snap_c_N 4
C8 Snap_C_LP_N A2 1p
S4 V3_N Negative Snap_C_LP_N A2 snapback1SW_GP101
F4 A2 N008 V13 +0.9
R29 A2 N008 1e100
R30 A2 Negative 1e100
R31 Snap_A_N N010 1K
D17 A2 N020 mainIV_GP101
R32 A2 Snap_B_N 1e100
R33 A2 snap_c_N 1e100
V13 B_N V3_N 0
R34 N008 snap_c_N 1000
G1 A2 snap_c_N A2 Snap_B_N -1
F6 A2 N022 V16 -1
R38 N022 A2 1e100
V16 B_N N019 0
S6 N020 N019 CM_C_N A2 cmSW_GP101
V17 CM_C_N N022 1.37
C10 N022 A2 30n
D20 N022 N024 idealD
D21 P002 N022 idealD
R39 N026 A2 50
R40 P002 A2 50
V19 N024 N026 100
R42 N022 A2 1e6
.ic v(snap_c_N)=0
.ic v(snap_c)=0
.ENDS
*
*
*
*
.SUBCKT SD0201SL_GP103 A1 A2 PARAMS: L1v=0.27n C1v=9p R1v=0.28
L1 A1 N005 {L1v}
C1 N005 N007 {C1v}
R1 N007 A2 {R1v}
R2 N005 A2 1e7
D1 N005 Positive idealD
E1 N009 A2 Positive A2 1
V1 Snap_A Snap_B 22
D3 A2 Snap_B idealD
C2 snap_c A2 1p
R3 snap_c A2 1e6
D4 Test N011 idealD
V2 N011 N015 100
R4 N015 A2 50
D5 N013 Test idealD
R5 N013 A2 50
R6 Snap_C_LP snap_c 4
C3 Snap_C_LP A2 2p
S1 V3 Positive Snap_C_LP A2 snapback1SW_GP103
F1 A2 Test V3 -0.9
R7 A2 Test 1e100
R8 A2 Positive 1e100
R9 Snap_A N009 1K
D6 N018 A2 mainIV_GP103
R10 A2 Snap_B 1e100
R11 A2 snap_c 1e100
V3 B V3 0
R12 Test snap_c 1000
D12 Positive A2 Before_snapback_GP103
G2 A2 snap_c A2 Snap_B -1
F3 A2 N021 V8 +1
R17 N021 A2 1e100
V8 B N017 0
S3 N018 N017 CM_C A2 cmSW_GP103
V9 CM_C N021 1.37
C5 N021 A2 30n
D9 N021 N023 idealD
D10 P001 N021 idealD
R18 N025 A2 50
R19 P001 A2 50
V10 N023 N025 100
R21 N021 A2 1e6
D2 Negative N005 idealD
D13 A2 Negative Before_snapback_GP103
E3 N010 A2 Negative A2 -1
V11 Snap_A_N Snap_B_N 7
D14 A2 Snap_B_N idealD
C7 snap_c_N A2 1p
R25 snap_c_N A2 1e6
D15 N008 N012 idealD
V12 N012 N016 100
R26 N016 A2 50
D16 N014 N008 idealD
R27 N014 A2 50
R28 Snap_C_LP_N snap_c_N 4
C8 Snap_C_LP_N A2 2p
S4 V3_N Negative Snap_C_LP_N A2 snapback1SW_GP103
F4 A2 N008 V13 +0.9
R29 A2 N008 1e100
R30 A2 Negative 1e100
R31 Snap_A_N N010 1K
D17 A2 N020 mainIV_GP103
R32 A2 Snap_B_N 1e100
R33 A2 snap_c_N 1e100
V13 B_N V3_N 0
R34 N008 snap_c_N 1000
G1 A2 snap_c_N A2 Snap_B_N -1
F6 A2 N022 V16 -1
R38 N022 A2 1e100
V16 B_N N019 0
S6 N020 N019 CM_C_N A2 cmSW_GP103
V17 CM_C_N N022 1.37
C10 N022 A2 30n
D20 N022 N024 idealD
D21 P002 N022 idealD
R39 N026 A2 50
R40 P002 A2 50
V19 N024 N026 100
R42 N022 A2 1e6
.ic v(snap_c_N)=0
.ic v(snap_c)=0
.ENDS
*
*
*
*
.SUBCKT SD0201SL_GP104 A1 A2 PARAMS: L1v=0.27n C1v=5.5p R1v=0.54
L1 A1 N005 {L1v}
C1 N005 N007 {C1v}
R1 N007 A2 {R1v}
R2 N005 A2 1e7
D1 N005 Positive idealD
D6 N011 A2 mainIV_GP104
F3 A2 N017 V8 +1
R17 N017 A2 1e100
V8 N009 N010 0
S3 N011 N010 CM_C A2 cmSW_GP104
V9 CM_C N017 1.33
C5 N017 A2 27n
D9 N017 N021 idealD
D10 P001 N017 idealD
R18 N025 A2 50
R19 P001 A2 50
V10 N021 N025 100
R21 N017 A2 1e6
D2 Negative N005 idealD
D17 A2 N015 mainIV_GP104
F6 A2 N019 V16 -1
R38 N019 A2 1e100
V16 N013 N014 0
S6 N015 N014 CM_C_N A2 cmSW_GP104
V17 CM_C_N N019 1.33
C10 N019 A2 27n
D20 N019 N023 idealD
D21 P002 N019 idealD
R39 N027 A2 50
R40 P002 A2 50
V19 N023 N027 100
R42 N019 A2 1e6
F1 A2 N016 V8 +1
R3 N016 A2 1e100
V1 Positive N008 0
S1 N009 N008 FE_C A2 FESW_GP104
V2 FE_C N016 3.62
C2 N016 A2 1n
D4 N016 N020 idealD
D5 P003 N016 idealD
R4 N024 A2 50
R5 P003 A2 50
V3 N020 N024 100
R6 N016 A2 1e6
F2 A2 N018 V16 -1
R7 N018 A2 1e100
V5 Negative N012 0
S2 N013 N012 FE_C_N A2 FESW_GP104
V6 FE_C_N N018 3.62
C3 N018 A2 1n
D7 N018 N022 idealD
D8 P004 N018 idealD
R8 N026 A2 50
R9 P004 A2 50
V7 N022 N026 100
R10 N018 A2 1e6
.ic v(snap_c_N)=0
.ic v(snap_c)=0
.ENDS
*
*
*
*